US06673799B1
Synthesis of 6-acetylmethylaminonicotinic acid
A 1.5 g portion of 6-methylaminonicotinic acid in 20 ml of acetic anhydride was heated under reflux for 1.5 hours. After evaporation of the solvent under reduced pressure, the residue was dissolved with saturated aqueous sodium bicarbonate, and the aqueous layer was washed with ethyl acetate and then adjusted to pH 3 using concentrated hydrochloric acid. Then the aqueous layer was extracted with chloroform, the organic layer was washed and dried, and then the solvent was evaporated under reduced pressure to obtain 280 mg of the title compound as white crystals.

reactant | 6-methylaminonicotinic acid | CNC1=NC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-acetylmethylaminonicotinic acid | 280 mg | C(C)(=O)CNC1=NC=C(C(=O)O)C=C1 | C9H10N2O3
